US07919519B2
To a solution of 4-phenoxyphenol (10.0 g, 54 mmol) in 100 mL AcOH was added slowly dropwise nitric acid (69-70%, 3.2 mL, 54 mmol) over about 3 min from an addition funnel. The reaction became warm and was cooled with a water bath. After 1 h, the reaction was poured onto ice and allowed to warm to rt. A gummy solid resulted, which was partitioned between MTBE and water. The organic layer was washed 1× water, 1× brine, dried over sodium sulfate, filtered, and concentrated to a dark oil. This was adsorbed onto 36 g silica gel and dried, and purified in two parts by silica gel chromatography, ISCO, 0-10% EtOAC/hexanes. Product-containing fractions were combined and concentrated to give 2-nitro-4-phenoxyphenol as an orange oil. MS (ESI) m/z: Calculated: 231.1; Observed: 230.0 (M−−1).

reactant | 4-phenoxyphenol | 54 mmol, 10.0 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | nitric acid | 54 mmol, 3.2 mL | [N+](=O)(O)[O-] | HNO3
solvent | AcOH | 100 mL | CC(=O)O | C2H4O2
product | 2-nitro-4-phenoxyphenol | [N+](=O)([O-])C1=C(C=CC(=C1)OC1=CC=CC=C1)O | C12H9NO4
